US07713996B2
A solution of 7-(4-ethoxycarbonyl-phenylcarbamoyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester (1.1 g, 2.5 mmol) in trifluoroacetic acid (5 ml) was stirred at room temperature for 2 hours. The solvent was then removed and the residue redissolved in dichloromethane and washed with saturated sodium hydrogencarbonate. The organic layer was dried with Na2SO4 and evaporated. The residue was purified by flash chromatography (heptane/ethyl acetate gradient) to yield 4-[(1,2,3,4-tetrahydro-quinoline-7-carbonyl)-amino]-benzoic acid ethyl ester as a white solid, 790 mg (97%). MS (ISP): m/e=325.4 (M+H+.); δH (300 MHz; CDCl3) 8.59 (1H, s), 7.98 (2H, d), 7.77 (1H, s), 7.69 (2H, d), 7.48 (1H, d), 7.09 (1H, d), 4.37 (2H, q), 3.44 (2H, m), 2.79 (2H, t), 2.08 (2H, m), 1.40 (3H, t).

reactant | 7-(4-ethoxycarbonyl-phenylcarbamoyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 2.5 mmol, 1.1 g | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(C=C12)C(NC1=CC=C(C=C1)C(=O)OCC)=O | C24H28N2O5
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[(1,2,3,4-tetrahydro-quinoline-7-carbonyl)-amino]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(=O)C1=CC=C2CCCNC2=C1)=O | C19H20N2O3
